* SPICE3 file created from nand.ext - technology: scmos
.include 22nm_MGK.pm

.option scale=0.01u

vin va GND pulse 0 1 0ns 100ps 100ps 10ns 20ns
vinn vb GND pulse 0 1 0ns 100ps 100ps 10ns 20ns

M1000 vout va VDD w_n24_n9# pmos w=108 l=27
+  ad=16038 pd=522 as=27702 ps=990
M1001 VDD vb vout w_n24_n9# pmos w=108 l=27
+  ad=0 pd=0 as=0 ps=0
M1002 a_n5_n39# va GND Gnd nmos w=54 l=27
+  ad=8910 pd=378 as=6480 ps=324
M1003 vout vb a_n5_n39# Gnd nmos w=54 l=27
+  ad=8910 pd=378 as=0 ps=0


.control
tran 1n 120n
run
plot v(va)+4 v(vb)+2 v(vout)
.endc  