
*.SUBCKT nand nodeA nodeB node5 node1 gnd
.include Nand.sub
.include 22nm_MGK.pm
.SUBCKT And A B C vdd gnd



Xn1 A B 1 vdd gnd Nand
Xn2 1 1 C vdd gnd Nand


.ends