
.include Nand.sub
.include 22nm_MGK.pm

.SUBCKT Half_adder A B S C vdd gnd 


Xn1 A B 1 vdd gnd Nand
Xn2 A 1 2 vdd gnd Nand
Xn3 1 B 3 vdd gnd Nand
Xn4 2 3 S vdd gnd Nand
Xn5 1 1 C vdd gnd Nand

.ends