
*.SUBCKT nand nodeA nodeB node5 node1 gnd
*.include nand.sub
.include 22nm_MGK.pm
.SUBCKT full_adder A B C S C_out vdd gnd



Xn1 A B a1 vdd gnd Nand
Xn2 A a1 a2 vdd gnd Nand
Xn3 a1 B a3 vdd gnd Nand
Xn4 a2 a3 a4 vdd gnd Nand
Xn5 a4 C a5 vdd gnd Nand
Xn6 a5 C a6 vdd gnd Nand
Xn7 a4 a5 a7 vdd gnd Nand
Xn8 a7 a6 S vdd gnd Nand
Xn9 a5 a1 C_out vdd gnd Nand


.ends