
.SUBCKT main_block A0 A1 A2 A3 B b0 b1 b2 b3 S0 S1 S2 S3 carry vdd gnd

XD1 A3 B A3B vdd gnd And
XD2 A2 B A2B vdd gnd And
XD3 A1 B A1B vdd gnd And
XD4 A0 B A0B vdd gnd And

XD5 A0B A1B A2B A3B b0 b1 b2 b3 S0 S1 S2 S3 carry vdd gnd 4_bit_adder

.ends